US03997538
2-(3,4-Dichlorophenyl)-4-[3-(1-pyrrolidinyl)-propylamino]quinazoline Dihydrochloride
To a solution of 4-chloro-2-(3,4-dichlorophenyl)quinazoline (37.0 g., 0.12 mole) in dimethylformamide (400.0 ml) was added N-(3-aminopropyl) pyrrolidine (31.0 g., 0.24 mole). After stirring and heating the mixture for 4.0 hrs., the mixture was treated with charcoal and filtered. The solution was treated with H2O and then refrigerated. The cream colored powder removed by filtration was suspended in ethereal hydrochloric acid and treated with ethanol. After cooling, the off-white powder was removed by filtration and weighed 57.0 g., (100%). Two recrystallizations from ethanol + HCl/CH3OH + HCl/Charcoal (precipitated with ether) provided an analytical sample melting at 261°-263°. Anal. Calcd. for C21H22Cl2N4.2HCl: C, 53.18; H, 5.10; N, 11.81. Found: C, 52.96; H, 5.19; N, 11.67.

reactant | 4-chloro-2-(3,4-dichlorophenyl)quinazoline | 0.12 mole, 37.0 g | ClC1=NC(=NC2=CC=CC=C12)C1=CC(=C(C=C1)Cl)Cl | C14H7Cl3N2
reactant | N-(3-aminopropyl) pyrrolidine | 0.24 mole, 31.0 g | NCCCN1CCCC1 | C7H16N2
reactant | charcoal | C | CH4
solvent | dimethylformamide | 400.0 ml | CN(C=O)C | C3H7NO
product | 2-(3,4-Dichlorophenyl)-4-[3-(1-pyrrolidinyl)-propylamino]quinazoline Dihydrochloride | Cl.Cl.ClC=1C=C(C=CC1Cl)C1=NC2=CC=CC=C2C(=N1)NCCCN1CCCC1 | InChI=1S/C21H22Cl2N4.2ClH/c22-17-9-8-15(14-18(17)23)20-25-19-7-2-1-6-16(19)21(26-20)24-10-5-13-27-11-3-4-12-27;;/h1-2,6-9,14H,3-5,10-13H2,(H,24,25,26);2*1H
